US04082843
3-(2-methyl-3-nitrobenzoyl)propionic acid in ammonium hydroxide solution was reduced with ferrous sulphate to give 3-(3-amino-2-methylbenzoyl)propionic acid.

reactant | 3-(2-methyl-3-nitrobenzoyl)propionic acid | CC1=C(C(=O)CCC(=O)O)C=CC=C1[N+](=O)[O-] | C11H11NO5
solvent | ammonium hydroxide | [OH-].[NH4+]
product | 3-(3-amino-2-methylbenzoyl)propionic acid | NC=1C(=C(C(=O)CCC(=O)O)C=CC1)C | C11H13NO3
